US07956084B2
b) 3-(2-Bromophenoxy)-1-ethylpyrrolidine
1-Ethyl-3-pyrrolidinol (0.5 ml), 2-bromophenol (0.37 ml) and triphenylphosphine (1.02 g) were dissolved in tetrahydrofuran (10 ml) and the mixture cooled in an ice bath before dropwise addition of diisopropyl azodicarboxylate (0.77 ml). The mixture was allowed to warm to room temperature over 3 h. The mixture was concentrated in vacuo and partitioned between ether (50 ml) and water (50 ml) and the aqueous phase was extracted further with ether (50 ml). The combined organic phases were washed with water (2×25 ml), brine (2×25 ml), dried (MgSO4) and concentrated in vacuo. The product was dissolved in ethyl acetate (50 ml) and extracted with 2M aqueous hydrochloric acid (3×20 ml). The aqueous washings were combined and basified by the addition of solid sodium hydroxide and extracted with ethyl acetate (3×20 ml), dried (MgSO4) and concentrated in vacuo. The residue was purified by cation exchange chromatography eluting with ammonia/methanol/dichloromethane mixtures. This gave the title compound as a pale orange oil (529 mg).

reactant | 1-Ethyl-3-pyrrolidinol | 0.5 ml | C(C)N1CC(CC1)O | C6H13NO
reactant | 2-bromophenol | 0.37 ml | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | triphenylphosphine | 1.02 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.77 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-(2-Bromophenoxy)-1-ethylpyrrolidine | 529 mg | BrC1=C(OC2CN(CC2)CC)C=CC=C1 | C12H16BrNO
